US06953790B2
Step E. N-[(3R,6S)-6-(2,3-difluorophenyl)-7-(hydroxymethyl)-2-oxoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.68 mL, 0.49 mmol) was added to a solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-7-(hydroxymethyl)azepan-2-one (57 mg, 0.21 mmol) and 4-nitrophenyl chloroformate (47 mg, 0.23 mmol) in tetrahydrofuran (10 mL) at 0° C. After 30 min, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (98 mg, 0.34 mmol), triethylamine (0.84 mmol) and chloroform (10 mL) were added and the mixture allowed to warm to ambient temperature. The reaction was stirred overnight, concentrated, diluted with saturated aqueous sodium bicarbonate and extracted with dichloromethane (2×). The organic layer was washed with water, saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (1%→12% methanol/dichloromethane) gave the title compound (17 mg). MS 515.2203 (M+1).

reactant | Triethylamine | 0.49 mmol, 0.68 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-7-(hydroxymethyl)azepan-2-one | 0.21 mmol, 57 mg | N[C@H]1C(NC([C@@H](CC1)C1=C(C(=CC=C1)F)F)CO)=O | C13H16F2N2O2
reactant | 4-nitrophenyl chloroformate | 0.23 mmol, 47 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.34 mmol, 98 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 0.84 mmol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[(3R,6S)-6-(2,3-difluorophenyl)-7-(hydroxymethyl)-2-oxoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 17 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1CO)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C25H28F2N6O4
